US04362740
Methyl 5-acetylsalicylate (10.0 g) was hydrogenated in the presence of 5% Pd-C (1.0 g) in ethyl acetate (200 ml) containing 70% HClO4 (2 ml) at room temperature under usual pressure of H2 gas with stirring. The catalyst was filtered off and the filtrate was evaporated in vacuo to give crude methyl 5-ethylsalicylate as pale brown oil.

reactant | Methyl 5-acetylsalicylate | 10.0 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 1.0 g | [Pd] | Pd
product | methyl 5-ethylsalicylate | C(C)C1=CC=C(C(C(=O)OC)=C1)O | C10H12O3
